US08067448B2
4-amino-3-methyl-2-(trifluoromethyl)benzonitrile (CAS 573764-86-0, 2.0 g, 9.99 mmol) was dissolved in fluoroboric acid, HBF4 solution (15 mL) at −10° C. (ice/MeOH). To the pre-cooled solution was added NaNO2 (689 mg, 9.992 mmol) in 2 mL H2O drop by drop under constant stirring. The reaction mixture was allowed to stir for 15 min at −10° C. and filtered off. The white residue was washed with cold EtOH and cold ether to get the diazosalt as a white crystalline solid. The salt is dried over high vacuum for 4-5 h. to provide 1.9 g. The salt was heated up (>250° C.) and sublimed under reduced pressure to get the crude fluoro compound as an oil. The oil is chromatographed to get the pure 4-fluoro-3-methyl-2-(trifluoromethyl)benzonitrile as a clear oil (700 mg): 1H NMR (400 MHz, CDCl3, δ in ppm) 7.68 (dd, J=5.0, 9.0 Hz, 1H), 7.33 (t, J=9 Hz, 1H), 2.43 (quin, J=2 Hz, 3H).

reactant | 4-amino-3-methyl-2-(trifluoromethyl)benzonitrile | 9.99 mmol, 2.0 g | NC1=C(C(=C(C#N)C=C1)C(F)(F)F)C | C9H7F3N2
reactant | NaNO2 | 9.992 mmol, 689 mg | N(=O)[O-].[Na+]
reactant | fluoroboric acid | F[B-](F)(F)F.[H+]
reactant | HBF4 | 15 mL | [H+].[B-](F)(F)(F)F
solvent | H2O | 2 mL | O | H2O
product | 4-fluoro-3-methyl-2-(trifluoromethyl)benzonitrile | 700 mg | FC1=C(C(=C(C#N)C=C1)C(F)(F)F)C | C9H5F4N
